US05478838
A solution (40 ml) of 4-azido-1-benzyl-1H-pyrazolo[3,4-b]pyridine (2.7 g), 10% palladium hydroxide carbon (1.0 g) and 15% hydrochloric acid-methanol (1 ml) in methanol was stirred in an autoclave at initial hydrogen pressure of 10 atm and at 40°-50° C. for 5 hours. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure to give crystals. Recrystallization from methanol-ethyl acetate gave 1.9 g of 4-amino-1H-pyrazolo[3,4-b]pyridine dihydrochloride.

reactant | 4-azido-1-benzyl-1H-pyrazolo[3,4-b]pyridine | 40 ml, 2.7 g | N(=[N+]=[N-])C1=C2C(=NC=C1)N(N=C2)CC2=CC=CC=C2 | C13H10N6
reactant | hydrochloric acid methanol | 1 ml | Cl.CO
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide carbon | 1.0 g | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | 4-amino-1H-pyrazolo[3,4-b]pyridine dihydrochloride | 1.9 g | Cl.Cl.NC1=C2C(=NC=C1)NN=C2 | InChI=1S/C6H6N4.2ClH/c7-5-1-2-8-6-4(5)3-9-10-6;;/h1-3H,(H3,7,8,9,10);2*1H
